US05053509
(RS)-1-Cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-4-oxo-8-(3-phenyl-1-piperazinyl)-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 19, but starting with 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine (1.8 g) and (RS)-2-phenylpiperazine (3.2 g). After recrystallization in a mixture of dimethylformamide (5 cc) and ethanol (40 cc), (RS)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-4-oxo-8-(3-phenyl-1-piperazinyl)-1,4-dihydrobenzo[b][1,8]naphthyridine (1.8 g) is obtained in the form of a yellow solid, m.p. 242° C.

reactant | 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.8 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)F)F)=O)C(=O)OCC | C18H13F3N2O3
reactant | (RS)-2-phenylpiperazine | 3.2 g | C1(=CC=CC=C1)C1NCCNC1 | C10H14N2
product | (RS)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-4-oxo-8-(3-phenyl-1-piperazinyl)-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.8 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)N3CC(NCC3)C3=CC=CC=C3)F)=O)C(=O)OCC | C28H26F2N4O3
